US04024248
d. Glu-His-Trp-Ser-Tyr-D-Glu-Leu-Arg-Pro-NH-C2H5 -diacetate (as comparison substance)
190 mg of Glu-His-Trp-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 -diacetate were reacted and purified in analogy to Example 1 g). Yield: 148.9 mg. The content of peptide base was 85% as per UV-spectrum. [-α]D22 = -47.8° (c=1, in H2O)

reactant | Glu-His-Trp-Ser-Tyr-D-Glu(OBut)-Leu-Arg-Pro-NH-C2H5 diacetate | 190 mg | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O
solvent | H2O | O | H2O
product | Glu-His-Trp-Ser-Tyr-D-Glu-Leu-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O | InChI=1S/C58H82N16O15.C4H6O3/c1-4-63-56(88)46-12-8-22-74(46)57(89)40(11-7-21-64-58(60)61)68-51(83)41(23-31(2)3)70-50(82)39(18-20-48(79)80)67-52(84)42(24-32-13-15-35(76)16-14-32)71-55(87)45(29-75)73-53(85)43(25-33-27-65-38-10-6-5-9-36(33)38)72-54(86)44(26-34-28-62-30-66-34)69-49(81)37(59)17-19-47(77)78;1-3(5)2-4(6)7/h5-6,9-10,13-16,27-28,30-31,37,39-46,65,75-76H,4,7-8,11-12,17-26,29,59H2,1-3H3,(H,62,66)(H,63,88)(H,67,84)(H,68,83)(H,69,81)(H,70,82)(H,71,87)(H,72,86)(H,73,85)(H,77,78)(H,79,80)(H4,60,61,64);2H2,1H3,(H,6,7)/t37-,39+,40-,41-,42-,43-,44-,45-,46-;/m0./s1
